US07572820B2
4-Chloro-2-(difluoromethyl)-1-{[3-(2-pyridinyl)-1,2,4-oxadiazol-5-yl]methyl}-1H-indole-5-carbonitrile
To a suspension of [4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]acetic acid (0.020 g, 0.070 mmol) in DCE (2 mL), under N2 was added EDCl (0.015 g, 0.077 mmol) and the resulting mixture was stirred at rt. After 5 min, N-hydroxy-2-pyridinecarboximidamide (0.011 g, 0.077 mmol) was added. After stirring at rt for 30 min, the mixture was heated in a microwave at 150° C. for 20 min. Upon cooling, the mixture was partitioned between EtOAc and 0.1N HCl. The organic phase was washed with sat'd NaHCO3 solution and brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (0-100% EtOAc-hexanes gradient) and the product was crystallized from CH2Cl2-MeOH-hexanes to give the title compound as a white solid (0.016 g, 59% yield): MS (ES) m/z 386 (M+1).

reactant | [4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]acetic acid | 0.070 mmol, 0.020 g | ClC1=C2C=C(N(C2=CC=C1C#N)CC(=O)O)C(F)F | C12H7ClF2N2O2
reactant | EDCl | 0.077 mmol, 0.015 g | CCN=C=NCCCN(C)C.Cl
reactant | N-hydroxy-2-pyridinecarboximidamide | 0.077 mmol, 0.011 g | ONC(=N)C1=NC=CC=C1 | C6H7N3O
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
product | 4-Chloro-2-(difluoromethyl)-1-{[3-(2-pyridinyl)-1,2,4-oxadiazol-5-yl]methyl}-1H-indole-5-carbonitrile | 0.016 g, 59% yield | ClC1=C2C=C(N(C2=CC=C1C#N)CC1=NC(=NO1)C1=NC=CC=C1)C(F)F | C18H10ClF2N5O
